US07022707B2
Piperazine-1-carboxylic acid 4-trifluoromethoxy-benzyl ester hydrochloride:
A solution of 174 mg (0.49 mmol) piperazine-1,4-dicarboxylic acid tert-butyl ester 4-trifluoromethoxy-benzyl ester in 4.9 ml 1.5M HCl/Et2O and 0.98 ml abs. MeOH was stirred at rt for 3 h. Evaporation of the reaction mixture provided 189 mg as colourless powder. 1H-NMR (d6-DMSO): 3.10 m, 4H and 3.62 m, 4H; 5.13 2, 2H; 7.40 d, 2H and 7.53 d, 2H, AB-system; 9.2 br, 2H. MS (ISP): 305.2 (M+H)+.

reactant | piperazine-1,4-dicarboxylic acid tert-butyl ester 4-trifluoromethoxy-benzyl ester | 0.49 mmol, 174 mg | FC(OC1=CC=C(COC(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1)(F)F | C18H23F3N2O5
reactant | MeOH | CO | CH4O
reactant | HCl Et2O | 1.5M, 4.9 ml | Cl.CCOCC
product | Piperazine-1-carboxylic acid 4-trifluoromethoxy-benzyl ester hydrochloride | Cl.FC(OC1=CC=C(COC(=O)N2CCNCC2)C=C1)(F)F | InChI=1S/C13H15F3N2O3.ClH/c14-13(15,16)21-11-3-1-10(2-4-11)9-20-12(19)18-7-5-17-6-8-18;/h1-4,17H,5-9H2;1H
